US07728005B2
Step 1: (2S)-3-amino-2-{[(benzyloxy)carbonyl]amino}propionic acid
To N-(benzyloxycarbonyl)-L-asparagine (7.5 g) were added ethyl acetate (36 ml), acetonitrile (36 ml), water (18 ml) and iodosobenzene diacetate (10 g), and the mixture was stirred overnight at room temperature. The reaction mixture was filtered, and the obtained solid was washed with ethyl acetate to give the title compound.

reactant | N-(benzyloxycarbonyl)-L-asparagine | 7.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
reactant | ethyl acetate | 36 ml | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 36 ml | C(C)#N | C2H3N
reactant | iodosobenzene diacetate | 10 g | C(C)(=O)O.C(C)(=O)O.I(=O)C1=CC=CC=C1
solvent | water | 18 ml | O | H2O
product | (2S)-3-amino-2-{[(benzyloxy)carbonyl]amino}propionic acid | NC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C11H14N2O4
